US04940710
To a solution of 10.1 ml of thionyl chloride in 50 ml of carbon tetrachloride was added, with stirring, a solution of 22.15 g of 1,4-bis(phenylmethyl)-2-piperazinemethanol in 120 ml of carbon tetrachloride. This mixture was stirred in an oil bath at 70° C. for one hour, then cooled in an ice bath and a solution of 17.1 g of potassium hydroxide in 50 ml of water was added. The mixture was extracted several times with dichloromethane. The extracts were combined, filtered through hydrous magnesium silicate and evaporated. The residual gum was dissolved in warm heptane, filtered and evaporated to an oil which crystallized on standing, giving 17.94 g of 2-chloromethyl-1,4-bis(phenylmethyl)piperazine, mp 54°-56° C.

reactant | thionyl chloride | 10.1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1,4-bis(phenylmethyl)-2-piperazinemethanol | 22.15 g | C1(=CC=CC=C1)CN1C(CN(CC1)CC1=CC=CC=C1)CO | C19H24N2O
reactant | potassium hydroxide | 17.1 g | [OH-].[K+]
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 120 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | 50 ml | O | H2O
product | 2-chloromethyl-1,4-bis(phenylmethyl)piperazine | 17.94 g | ClCC1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C19H23ClN2
